US07189851B2
E. Diethyl 2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-4-[6-(ethoxycarbonyl)-3-pyridazinyl]-6-(4-fluorobenzyl)-3,5-pyridinedicarboxylate
To the dihydropyridine (D, diethyl 2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-4-[6-(ethoxycarbonyl)-3-pyridazinyl]-6-(4-fluorobenzyl)-1,4-dihydro-3,5-pyridinedicarboxylate, 265 mg, 0.41 mmol} in 9 ml acetonitrile, ammonium cerium nitrate (445 mg, 0.82 mmol) in 1.8 ml water was added. The reaction mixture was stirred for 5 minutes. Ten (10) ml water was added and then extracted with ethyl acetate. The combined organic layers were washed with brine and dried over sodium sulfate. Removal of the solvent provided 260 mg orange foam which was carried to the next step without further purification. ESI-MS m/z 651 (M+H)+.

reactant | dihydropyridine | N1CC=CC=C1 | C5H7N
reactant | diethyl 2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-4-[6-(ethoxycarbonyl)-3-pyridazinyl]-6-(4-fluorobenzyl)-1,4-dihydro-3,5-pyridinedicarboxylate | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=1NC(=C(C(C1C(=O)OCC)C=1N=NC(=CC1)C(=O)OCC)C(=O)OCC)CC1=CC=C(C=C1)F | C34H41FN4O8
reactant | ammonium cerium nitrate | 0.82 mmol, 445 mg | [N+](=O)([O-])[O-].[Ce].[NH4+]
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
solvent | water | 1.8 ml | O | H2O
product | Diethyl 2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-4-[6-(ethoxycarbonyl)-3-pyridazinyl]-6-(4-fluorobenzyl)-3,5-pyridinedicarboxylate | 260 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1=NC(=C(C(=C1C(=O)OCC)C=1N=NC(=CC1)C(=O)OCC)C(=O)OCC)CC1=CC=C(C=C1)F | C34H39FN4O8
